US04812578
Production of 4-benzyloxy-3-pyrrolin-2-one
5.7 g (50 mmol) of 4-methoxy-3-pyrrolin-2-one and 10.8 g (100 mmol) of benzyl alcohol were mixed with 0.4 g (4 mmol) of methanesulfonic acid and stirred for 24 hours at 80° C. and 20 mbars. Then the reaction solution was mixed with 50 ml of ice water and 100 ml of methylene chloride, and neutralized with 4 ml of saturated NaHCO3 solution. The aqueous phase was extracted twice with 50 ml of methylene chloride each. After drying of the organic phase over Na2SO4 and distilling off of the solvent, the residue was mixed with 150 ml of ice water, heated to 100° C. and azeotropically distilled off with 100 ml of water-benzyl alcohol. The crystals precipitated during cooling were recrystallized hot from 50 ml of toluene. 6.7 g of white, crystalline product with a melting point of 147° to 148° C. was obtained:

reactant | 4-methoxy-3-pyrrolin-2-one | 50 mmol, 5.7 g | COC1=CC(NC1)=O | C5H7NO2
reactant | benzyl alcohol | 100 mmol, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | methanesulfonic acid | 4 mmol, 0.4 g | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | 4 ml | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-3-pyrrolin-2-one | C(C1=CC=CC=C1)OC1=CC(NC1)=O | C11H11NO2
